US06469065B1
13a. 4-[N-(2-Methyl-2-sulfanylpropyl)carbamoyl]butanoic Acid
To a suspension of 1-Amino-2-methylpropane-2-thiol hydrochloride (1.41 g, 10 mmol) in anhydrous dichloromethane (10 mL) was added triethylamine (1.5 mL) at 0° C. The mixture was stirred at 0° C. for 10 minutes and glutaric anhydride (1.14 g, 10 mmol) in anhydrous dichloromethane (20 mL) was added at 0° C. under argon atmosphere. The reaction mixture was stirred at 0° C. for 10 minutes and then at room temperature for 2 hours. The solvent was evaporated at reduced pressure and the residue was extracted with ethyl acetate and water. The combined ethyl acetate extracts were washed with 1 N HCl, dried over sodium sulfate and solvent was evaporated at reduced pressure to give colorless oil, which upon trituration with ethyl ether/hexane gave 1.57 g of the title compound as a colorless powder in 72% yield, mp 101-104° C.; 1H NMR (CDCl3): δ1.31 (s, 6H), 1.94 (m, 2H), 2.22-2.38 (m, 4H), 3.33 (d, J=6.1 Hz, 2H), 6.28 (s, 1H), 9.2 (br s, 1H; LRMS (APIMS) (m/z) 220 (M+1).

reactant | 1-Amino-2-methylpropane-2-thiol hydrochloride | 10 mmol, 1.41 g | Cl.NCC(C)(S)C
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | glutaric anhydride | 10 mmol, 1.14 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[N-(2-Methyl-2-sulfanylpropyl)carbamoyl]butanoic Acid | 1.57 g, 72% yield | CC(CNC(=O)CCCC(=O)O)(C)S | C9H17NO3S
